* Created by KLayout

* cell BUF_X2
* pin A
* pin vdd
* pin Y
* pin gnd
.SUBCKT BUF_X2 1 3 4 5
* net 1 A
* net 3 vdd
* net 4 Y
* net 5 gnd
* device instance $1 r0 *1 6.1,44.8 PMOS_mst
M$1 3 1 2 3 PMOS_mst L=1U W=10.2U AS=28.56P AD=15.3P PS=26U PD=13.2U
* device instance $2 r0 *1 10.1,44.8 PMOS_mst
M$2 4 2 3 3 PMOS_mst L=1U W=20.4U AS=30.6P AD=43.86P PS=26.4U PD=39.2U
* device instance $4 r0 *1 6.1,6.8 NMOS_mst
M$4 5 1 2 5 NMOS_mst L=1U W=3.4U AS=9.52P AD=5.1P PS=12.4U PD=6.4U
* device instance $5 r0 *1 10.1,6.8 NMOS_mst
M$5 4 2 5 5 NMOS_mst L=1U W=6.8U AS=10.2P AD=14.62P PS=12.8U PD=18.8U
.ENDS BUF_X2
