* Created by KLayout

* cell CLKBUF_X16
* pin Y
* pin A
* pin vdd
* pin gnd
.SUBCKT CLKBUF_X16 1 2 4 5
* net 1 Y
* net 2 A
* net 4 vdd
* net 5 gnd
* device instance $1 r0 *1 6.1,44.8 PMOS_mst
M$1 3 2 4 4 PMOS_mst L=1U W=122.4U AS=196.86P AD=183.6P PS=171.2U PD=158.4U
* device instance $13 r0 *1 54.1,44.8 PMOS_mst
M$13 1 3 4 4 PMOS_mst L=1U W=816U AS=1224P AD=1237.26P PS=1056U PD=1068.8U
* device instance $93 r0 *1 6.1,6.8 NMOS_mst
M$93 3 2 5 5 NMOS_mst L=1U W=40.8U AS=65.62P AD=61.2P PS=82.8U PD=76.8U
* device instance $105 r0 *1 54.1,6.8 NMOS_mst
M$105 1 3 5 5 NMOS_mst L=1U W=272U AS=408P AD=412.42P PS=512U PD=518U
.ENDS CLKBUF_X16
