* Created by KLayout

* cell DEL1
* pin Y
* pin A
* pin vdd
* pin gnd
.SUBCKT DEL1 4 5 6 7
* net 4 Y
* net 5 A
* net 6 vdd
* net 7 gnd
* device instance $1 r0 *1 19.6,44.8 PMOS_mst
M$1 6 2 3 6 PMOS_mst L=2U W=10.2U AS=28.56P AD=15.3P PS=26U PD=13.2U
* device instance $2 r0 *1 24.1,44.8 PMOS_mst
M$2 4 3 6 6 PMOS_mst L=1U W=20.4U AS=30.6P AD=43.86P PS=26.4U PD=39.2U
* device instance $4 r0 *1 6.1,44.8 PMOS_mst
M$4 6 5 1 6 PMOS_mst L=1U W=10.2U AS=28.56P AD=15.3P PS=26U PD=13.2U
* device instance $5 r0 *1 10.6,44.8 PMOS_mst
M$5 2 1 6 6 PMOS_mst L=2U W=10.2U AS=15.3P AD=28.56P PS=13.2U PD=26U
* device instance $6 r0 *1 19.6,6.8 NMOS_mst
M$6 7 2 3 7 NMOS_mst L=2U W=3.4U AS=9.52P AD=5.1P PS=12.4U PD=6.4U
* device instance $7 r0 *1 24.1,6.8 NMOS_mst
M$7 4 3 7 7 NMOS_mst L=1U W=6.8U AS=10.2P AD=14.62P PS=12.8U PD=18.8U
* device instance $9 r0 *1 6.1,6.8 NMOS_mst
M$9 7 5 1 7 NMOS_mst L=1U W=3.4U AS=9.52P AD=5.1P PS=12.4U PD=6.4U
* device instance $10 r0 *1 10.6,6.8 NMOS_mst
M$10 2 1 7 7 NMOS_mst L=2U W=3.4U AS=5.1P AD=9.52P PS=6.4U PD=12.4U
.ENDS DEL1
