* Created by KLayout

* cell INV_X16
* pin Y
* pin A
* pin vdd
* pin gnd
.SUBCKT INV_X16 1 2 3 4
* net 1 Y
* net 2 A
* net 3 vdd
* net 4 gnd
* device instance $1 r0 *1 6.1,44.8 PMOS_mst
M$1 1 2 3 3 PMOS_mst L=1U W=163.2U AS=258.06P AD=258.06P PS=224U PD=224U
* device instance $17 r0 *1 6.1,6.8 NMOS_mst
M$17 1 2 4 4 NMOS_mst L=1U W=54.4U AS=86.02P AD=86.02P PS=108.4U PD=108.4U
.ENDS INV_X16
