* Created by KLayout

* cell INV_X4
* pin A
* pin Y
* pin vdd
* pin gnd
.SUBCKT INV_X4 1 2 3 4
* net 1 A
* net 2 Y
* net 3 vdd
* net 4 gnd
* device instance $1 r0 *1 6.1,44.8 PMOS_mst
M$1 2 1 3 3 PMOS_mst L=1U W=40.8U AS=74.46P AD=74.46P PS=65.6U PD=65.6U
* device instance $5 r0 *1 6.1,6.8 NMOS_mst
M$5 2 1 4 4 NMOS_mst L=1U W=13.6U AS=24.82P AD=24.82P PS=31.6U PD=31.6U
.ENDS INV_X4
