* Created by KLayout

* cell OR4
* pin D
* pin C
* pin Y
* pin B
* pin A
* pin vdd
* pin gnd
.SUBCKT OR4 2 3 4 5 6 10 11
* net 2 D
* net 3 C
* net 4 Y
* net 5 B
* net 6 A
* net 10 vdd
* net 11 gnd
* device instance $1 r0 *1 6.1,44.8 PMOS_mst
M$1 7 2 1 10 PMOS_mst L=1U W=10.2U AS=28.56P AD=15.3P PS=26U PD=13.2U
* device instance $2 r0 *1 10.1,44.8 PMOS_mst
M$2 8 3 7 10 PMOS_mst L=1U W=10.2U AS=15.3P AD=15.3P PS=13.2U PD=13.2U
* device instance $3 r0 *1 14.1,44.8 PMOS_mst
M$3 9 5 8 10 PMOS_mst L=1U W=10.2U AS=15.3P AD=15.3P PS=13.2U PD=13.2U
* device instance $4 r0 *1 18.1,44.8 PMOS_mst
M$4 10 6 9 10 PMOS_mst L=1U W=10.2U AS=15.3P AD=15.3P PS=13.2U PD=13.2U
* device instance $5 r0 *1 22.1,44.8 PMOS_mst
M$5 4 1 10 10 PMOS_mst L=1U W=10.2U AS=15.3P AD=28.56P PS=13.2U PD=26U
* device instance $6 r0 *1 6.1,6.8 NMOS_mst
M$6 1 2 11 11 NMOS_mst L=1U W=3.4U AS=9.52P AD=5.1P PS=12.4U PD=6.4U
* device instance $7 r0 *1 10.1,6.8 NMOS_mst
M$7 11 3 1 11 NMOS_mst L=1U W=3.4U AS=5.1P AD=5.1P PS=6.4U PD=6.4U
* device instance $8 r0 *1 14.1,6.8 NMOS_mst
M$8 1 5 11 11 NMOS_mst L=1U W=3.4U AS=5.1P AD=5.1P PS=6.4U PD=6.4U
* device instance $9 r0 *1 18.1,6.8 NMOS_mst
M$9 11 6 1 11 NMOS_mst L=1U W=3.4U AS=5.1P AD=5.1P PS=6.4U PD=6.4U
* device instance $10 r0 *1 22.1,6.8 NMOS_mst
M$10 4 1 11 11 NMOS_mst L=1U W=3.4U AS=5.1P AD=9.52P PS=6.4U PD=12.4U
.ENDS OR4
